US06579884B1
Synthesis of 8-amino-3-acetyl-2-methylimidazo[1,2-a]pyridine
A mixture of 2,3-diaminopyridine (7 g, 64.1 mmol), 3-chloroacetylacetone (8.6 g, 64.1 mmol) in ethyl alcohol (80 ml) was refluxed for 9 hours. The solvent was removed under reduced pressure and the residue dissolved in methylene chloride. A sodium bicarbonate solution was added and the organic layer was separated. The aqueous layer was extracted twice with methylene chloride. The combined organic layer was dried and evaporated under reduced pressure. Chromatography of the residue on silica gel (methylene chloride:methanol, 100:5) gave a product which after recrystallisation from ethyl acetate gave 1.9 g (15%) of the title compound.

reactant | 2,3-diaminopyridine | 64.1 mmol, 7 g | NC1=NC=CC=C1N | C5H7N3
reactant | 3-chloroacetylacetone | 64.1 mmol, 8.6 g | ClCC(=O)CC(C)=O | C5H7ClO2
solvent | ethyl alcohol | 80 ml | C(C)O | C2H6O
product | 8-amino-3-acetyl-2-methylimidazo[1,2-a]pyridine | 1.9 g, 15% | NC=1C=2N(C=CC1)C(=C(N2)C)C(C)=O | C10H11N3O
